* File: G3_OR2_N1.pex.netlist.pex
* Created: Wed Feb 23 15:02:57 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_OR2_N1_VSS 2 4 6 10 12 29 36 38 52 57 62 67 76 85 90 91 95 96 101
+ 107 113 115 Vss
c75 115 Vss 3.87529e-19
c76 113 Vss 3.75522e-19
c77 107 Vss 0.00364034f
c78 101 Vss 0.00289341f
c79 96 Vss 8.28047e-19
c80 95 Vss 0.00177669f
c81 91 Vss 7.24667e-19
c82 90 Vss 0.00387778f
c83 85 Vss 0.00478809f
c84 76 Vss 0.00487294f
c85 67 Vss 5.74382e-19
c86 62 Vss 7.94131e-19
c87 57 Vss 8.26459e-19
c88 52 Vss 8.3638e-19
c89 38 Vss 0.0883089f
c90 36 Vss 6.95992e-20
c91 29 Vss 0.0339709f
c92 28 Vss 0.0996252f
c93 12 Vss 0.0831873f
c94 10 Vss 0.0825199f
c95 6 Vss 0.00148239f
c96 4 Vss 0.0834348f
c97 2 Vss 0.00226843f
r98 108 115 0.494161
r99 107 109 0.652036
r100 107 108 7.46046
r101 103 115 0.128424
r102 102 113 0.494161
r103 101 115 0.494161
r104 101 102 7.46046
r105 97 113 0.128424
r106 95 113 0.494161
r107 95 96 4.37625
r108 90 96 0.652036
r109 89 91 0.655813
r110 89 90 13.3371
r111 67 85 1.16709
r112 67 109 2.16729
r113 62 103 4.83471
r114 57 76 1.16709
r115 57 97 2.16729
r116 52 91 1.82344
r117 36 76 0.238214
r118 36 38 2.04225
r119 31 85 0.238214
r120 29 31 1.45875
r121 28 32 0.652036
r122 28 31 1.45875
r123 25 29 0.652036
r124 22 38 0.0685365
r125 12 32 2.5674
r126 10 25 2.5674
r127 6 62 1.16709
r128 4 22 2.5674
r129 2 52 1.16709
.ends

.subckt PM_G3_OR2_N1_VDD 2 4 6 8 10 12 14 16 37 39 46 49 70 72 77 79 83 85 89 91
+ 95 97 99 101 102 104 105 111 117 122 Vss
c84 122 Vss 0.00428848f
c85 117 Vss 0.00559477f
c86 111 Vss 0.00541836f
c87 105 Vss 2.39889e-19
c88 104 Vss 2.39889e-19
c89 102 Vss 0.00372909f
c90 101 Vss 4.60936e-19
c91 97 Vss 3.56526e-19
c92 95 Vss 0.00229498f
c93 91 Vss 0.00607434f
c94 89 Vss 4.24112e-19
c95 85 Vss 0.00212525f
c96 83 Vss 4.89903e-19
c97 79 Vss 0.00556721f
c98 77 Vss 0.00157944f
c99 74 Vss 0.0016959f
c100 72 Vss 0.00278215f
c101 70 Vss 0.00504106f
c102 57 Vss 0.12878f
c103 47 Vss 0.0348458f
c104 46 Vss 0.1003f
c105 39 Vss 7.35265e-20
c106 37 Vss 0.0346129f
c107 36 Vss 0.100535f
c108 16 Vss 0.00266844f
c109 14 Vss 0.0828894f
c110 12 Vss 0.0825186f
c111 10 Vss 0.0828869f
c112 8 Vss 0.0823812f
c113 6 Vss 0.00220666f
c114 4 Vss 0.0837966f
c115 2 Vss 0.0842392f
r116 111 114 0.05
r117 101 114 1.16709
r118 101 102 0.531835
r119 93 95 4.83471
r120 92 105 0.494161
r121 91 93 0.652036
r122 91 92 7.46046
r123 89 122 1.16709
r124 87 105 0.128424
r125 87 89 2.16729
r126 86 104 0.494161
r127 85 105 0.494161
r128 85 86 4.54296
r129 83 117 1.16709
r130 81 104 0.128424
r131 81 83 2.16729
r132 80 99 0.326018
r133 79 104 0.494161
r134 79 80 10.1696
r135 75 97 0.0828784
r136 75 77 1.82344
r137 74 102 4.37625
r138 72 99 0.326018
r139 71 97 0.551426
r140 71 72 4.16786
r141 70 97 0.551426
r142 69 74 0.652036
r143 69 70 10.6697
r144 56 111 0.262036
r145 56 57 2.26917
r146 53 56 2.26917
r147 49 122 0.238214
r148 47 49 1.45875
r149 46 50 0.652036
r150 46 49 1.45875
r151 43 47 0.652036
r152 39 117 0.238214
r153 37 39 1.5171
r154 36 40 0.652036
r155 36 39 1.4004
r156 33 37 0.652036
r157 30 57 0.00605528
r158 27 53 0.00605528
r159 16 95 1.16709
r160 14 43 2.5674
r161 12 50 2.5674
r162 10 40 2.5674
r163 8 33 2.5674
r164 6 77 1.16709
r165 4 27 2.5674
r166 2 30 2.5674
.ends

.subckt PM_G3_OR2_N1_B 2 4 10 13 18 21 26 31 Vss
c25 31 Vss 0.00183593f
c26 26 Vss 0.00362926f
c27 18 Vss 0.00112354f
c28 13 Vss 0.057478f
c29 10 Vss 6.95366e-20
c30 2 Vss 0.0576626f
r31 23 31 1.16709
r32 21 23 2.08393
r33 18 26 1.16709
r34 18 21 2.75079
r35 13 31 0.50025
r36 10 26 0.50025
r37 4 13 1.80885
r38 2 10 1.80885
.ends

.subckt PM_G3_OR2_N1_NET21 2 4 8 10 21 24 45 53 66 70 Vss
c39 70 Vss 0.00761723f
c40 66 Vss 0.00611981f
c41 53 Vss 0.00155023f
c42 45 Vss 0.00246193f
c43 24 Vss 0.225594f
c44 21 Vss 0.0713786f
c45 19 Vss 0.0247918f
c46 10 Vss 0.0847975f
c47 4 Vss 0.00148239f
c48 2 Vss 0.0021264f
r49 70 74 0.652036
r50 53 66 1.16709
r51 53 74 2.9175
r52 48 70 8.04396
r53 48 50 5.66829
r54 45 48 3.501
r55 27 66 0.0476429
r56 25 27 0.326018
r57 25 27 0.1167
r58 24 28 0.652036
r59 24 27 6.7686
r60 21 66 0.357321
r61 19 27 0.326018
r62 19 21 0.40845
r63 10 28 2.5674
r64 8 21 2.15895
r65 4 50 1.16709
r66 2 45 1.16709
.ends

.subckt PM_G3_OR2_N1_A 2 4 10 11 14 18 Vss
c22 18 Vss 2.95942e-19
c23 14 Vss 0.116245f
c24 11 Vss 0.0348752f
c25 10 Vss 0.275899f
c26 2 Vss 0.142908f
r27 21 27 1.16709
r28 18 21 0.0833571
r29 14 27 0.05
r30 12 14 1.6338
r31 10 12 0.652036
r32 10 11 8.92755
r33 7 11 0.652036
r34 4 14 3.0342
r35 2 7 4.668
.ends

.subckt PM_G3_OR2_N1_Z 2 16 19 Vss
c11 2 Vss 0.00148239f
r12 16 19 0.0364688
r13 2 19 1.16709
.ends

