* File: G3_OR2_N1.pex.netlist.pex
* Created: Tue Mar  1 11:26:38 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_OR2_N1_VSS 2 4 6 10 12 28 29 36 38 52 57 62 67 76 85 90 91 95 96
+ 101 107 113 115 Vss
c75 115 Vss 3.87529e-19
c76 113 Vss 3.75522e-19
c77 107 Vss 0.00356169f
c78 101 Vss 0.00288979f
c79 96 Vss 8.28047e-19
c80 95 Vss 0.00177669f
c81 91 Vss 6.45375e-19
c82 90 Vss 0.00387778f
c83 85 Vss 0.00483971f
c84 76 Vss 0.00487294f
c85 67 Vss 9.52891e-19
c86 62 Vss 6.68032e-19
c87 57 Vss 8.26459e-19
c88 52 Vss 0.00114656f
c89 38 Vss 0.0883089f
c90 36 Vss 6.95992e-20
c91 29 Vss 0.0339709f
c92 28 Vss 0.0988304f
c93 12 Vss 0.0842992f
c94 10 Vss 0.0825208f
c95 6 Vss 0.00148239f
c96 4 Vss 0.0834348f
c97 2 Vss 0.00226843f
r98 108 115 0.494161
r99 107 109 0.652036
r100 107 108 7.46046
r101 103 115 0.128424
r102 102 113 0.494161
r103 101 115 0.494161
r104 101 102 7.46046
r105 97 113 0.128424
r106 95 113 0.494161
r107 95 96 4.37625
r108 90 96 0.652036
r109 89 91 0.655813
r110 89 90 13.3371
r111 67 85 1.16709
r112 67 109 2.16729
r113 62 103 4.83471
r114 57 76 1.16709
r115 57 97 2.16729
r116 52 91 1.82344
r117 36 76 0.238214
r118 36 38 2.04225
r119 31 85 0.238214
r120 29 31 1.45875
r121 28 32 0.652036
r122 28 31 1.45875
r123 25 29 0.652036
r124 22 38 0.0685365
r125 12 32 2.5674
r126 10 25 2.5674
r127 6 62 1.16709
r128 4 22 2.5674
r129 2 52 1.16709
.ends

.subckt PM_G3_OR2_N1_VDD 2 4 6 8 10 12 14 16 37 39 46 49 70 72 73 77 79 83 87 89
+ 93 95 97 102 103 105 106 107 113 119 124 Vss
c84 124 Vss 0.00429743f
c85 119 Vss 0.00559477f
c86 113 Vss 0.00492664f
c87 107 Vss 2.39889e-19
c88 106 Vss 2.39889e-19
c89 103 Vss 3.56526e-19
c90 102 Vss 0.00314642f
c91 97 Vss 0.00307382f
c92 95 Vss 0.00838282f
c93 93 Vss 5.19372e-19
c94 89 Vss 0.00212525f
c95 87 Vss 4.89903e-19
c96 83 Vss 0.00134401f
c97 79 Vss 0.00561519f
c98 77 Vss 0.0016605f
c99 74 Vss 0.00173366f
c100 73 Vss 0.0048947f
c101 72 Vss 0.00279823f
c102 70 Vss 0.00738679f
c103 57 Vss 0.126882f
c104 47 Vss 0.0348458f
c105 46 Vss 0.1003f
c106 39 Vss 7.35265e-20
c107 37 Vss 0.0346129f
c108 36 Vss 0.100535f
c109 16 Vss 0.00262047f
c110 14 Vss 0.0828904f
c111 12 Vss 0.0825208f
c112 10 Vss 0.0828869f
c113 8 Vss 0.0823812f
c114 6 Vss 0.00220666f
c115 4 Vss 0.0830779f
c116 2 Vss 0.0842392f
r117 113 116 0.05
r118 101 102 4.16786
r119 97 101 0.655813
r120 97 99 1.82344
r121 96 107 0.494161
r122 95 102 0.652036
r123 95 96 10.1279
r124 93 124 1.16709
r125 91 107 0.128424
r126 91 93 2.16729
r127 90 106 0.494161
r128 89 107 0.494161
r129 89 90 4.54296
r130 87 119 1.16709
r131 85 106 0.128424
r132 85 87 2.16729
r133 83 116 1.16709
r134 81 83 2.20896
r135 80 105 0.326018
r136 79 106 0.494161
r137 79 80 10.1696
r138 75 103 0.0828784
r139 75 77 1.82344
r140 73 81 0.652036
r141 73 74 4.37625
r142 72 105 0.326018
r143 71 103 0.551426
r144 71 72 4.16786
r145 70 103 0.551426
r146 69 74 0.652036
r147 69 70 13.3371
r148 56 113 0.262036
r149 56 57 2.26917
r150 53 56 2.26917
r151 49 124 0.238214
r152 47 49 1.45875
r153 46 50 0.652036
r154 46 49 1.45875
r155 43 47 0.652036
r156 39 119 0.238214
r157 37 39 1.5171
r158 36 40 0.652036
r159 36 39 1.4004
r160 33 37 0.652036
r161 30 57 0.00605528
r162 27 53 0.00605528
r163 16 99 1.16709
r164 14 43 2.5674
r165 12 50 2.5674
r166 10 40 2.5674
r167 8 33 2.5674
r168 6 77 1.16709
r169 4 27 2.5674
r170 2 30 2.5674
.ends

.subckt PM_G3_OR2_N1_B 2 4 10 13 18 21 26 31 Vss
c25 31 Vss 0.00183593f
c26 26 Vss 0.00362926f
c27 18 Vss 0.00110935f
c28 13 Vss 0.057478f
c29 10 Vss 6.71834e-20
c30 2 Vss 0.0576626f
r31 23 31 1.16709
r32 21 23 2.08393
r33 18 26 1.16709
r34 18 21 2.75079
r35 13 31 0.50025
r36 10 26 0.50025
r37 4 13 1.80885
r38 2 10 1.80885
.ends

.subckt PM_G3_OR2_N1_NET21 2 4 8 10 21 24 45 53 66 70 Vss
c39 70 Vss 0.00761723f
c40 66 Vss 0.00611981f
c41 53 Vss 0.00155023f
c42 45 Vss 0.00245986f
c43 24 Vss 0.225594f
c44 21 Vss 0.0713786f
c45 19 Vss 0.0247918f
c46 10 Vss 0.0847975f
c47 4 Vss 0.00148239f
c48 2 Vss 0.0021264f
r49 70 74 0.652036
r50 53 66 1.16709
r51 53 74 2.9175
r52 48 70 8.04396
r53 48 50 5.66829
r54 45 48 3.501
r55 27 66 0.0476429
r56 25 27 0.326018
r57 25 27 0.1167
r58 24 28 0.652036
r59 24 27 6.7686
r60 21 66 0.357321
r61 19 27 0.326018
r62 19 21 0.40845
r63 10 28 2.5674
r64 8 21 2.15895
r65 4 50 1.16709
r66 2 45 1.16709
.ends

.subckt PM_G3_OR2_N1_A 2 4 10 11 14 18 Vss
c22 18 Vss 2.95942e-19
c23 14 Vss 0.116245f
c24 11 Vss 0.0348164f
c25 10 Vss 0.273261f
c26 2 Vss 0.142908f
r27 21 27 1.16709
r28 18 21 0.0833571
r29 14 27 0.05
r30 12 14 1.6338
r31 10 12 0.652036
r32 10 11 8.92755
r33 7 11 0.652036
r34 4 14 3.0342
r35 2 7 4.668
.ends

.subckt PM_G3_OR2_N1_Z 2 16 19 Vss
c11 2 Vss 0.00148239f
r12 16 19 0.0364688
r13 2 19 1.16709
.ends

